resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.011571
R2 0 n2 0.982558
R3 0 n4 0.985935
R4 n1 n3 1.004553
R5 n1 n5 1.007875
R6 n2 n3 0.985974
R7 n2 n6 1.010011
R8 n3 n7 0.996441
C9 n4 n5 1.52e-06
R10 n4 n6 1.00243
R11 n5 n7 1.00174
R12 n6 n7 1.002069
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r10[i] @r11[i] @r12[i]
.endc
.end
